US05556864
Following a procedure similar to that described in the first part of Preparation 3, the whole of this 3-(3-chlorophenyl)-2-propenal was reacted with 6.9 g of 2-benzyloxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 1) and 2.89 g of 1,8-diazabicyclo[5,4,0]undec-7-ene in 100 ml of acetonitrile. The crude product, extracted as described in the first part of Preparation 3, was purified as described in the first part of Preparation 3, to give 4.13 g (yield 94%) of 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butadiene as an oil.

reactant | 3-(3-chlorophenyl)-2-propenal | ClC=1C=C(C=CC1)C=CC=O | C9H7ClO
reactant | 2-benzyloxybenzyltriphenylphosphonium chloride | 6.9 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 2.89 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butadiene | 4.13 g, yield 94% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC=CC1=CC(=CC=C1)Cl | C23H19ClO
